US05262543
A mixture of 0.22 g 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-methylsulphonyloxymethylcyclopentane prepared as described in Example 1 (j), 47 mg 1,2,4-triazole and 0.1 g potassium carbonate in 3 ml N-methylpyrrolidone was warmed at 50° C. for 2 hours. A further 0.1 g potassium carbonate was then added, the temperature was raised to 120° C. and the reaction continued overnight at this temperature. The reaction mixture was then partitioned between diethyl ether and water and the organic solution flashed to give 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-(1,2,4-triazol-1-yl)methylcyclopentane crystallised from petroleum as a single stereoisomer (Isomer A). The conversion yield of Isomer A, corrected for purity, was 72%. The structure of the product was established by n.m.r. spectroscopy. Purity of Isomer A was 90% and Isomer B was not detected.

reactant | 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-methylsulphonyloxymethylcyclopentane | 0.22 g | ClC1=CC=C(CC2C(C(CC2)(C)C)(COS(=O)(=O)C)O)C=C1 | C16H23ClO4S
reactant | 1,2,4-triazole | 47 mg | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(4-chlorobenzyl)-3,3-dimethyl-2-hydroxy-2-(1,2,4-triazol-1-yl)methylcyclopentane | ClC1=CC=C(CC2C(C(CC2)(C)C)(CN2N=CN=C2)O)C=C1 | C17H22ClN3O
